US07635700B2
A mixture of 2-amino-6-methylbenzoic acid (10.75 g, 71.1 mmol) and CDI (10.75 g, 66.3 mmol) in acetonitrile (150 mL) was stirred at room temperature for 1 hour. To the suspension, was added 3-amino-piperidine-2,6-dione hydrogen chloride (10.75 g, 65.3 mmol) and sodium hydrogen carbonate (8.0 g, 95 mmol), and the mixture was heated at 50° C. for 18 hours. The suspension was cooled to room temperature, filtered, and washed with acetonitrile (50 mL), water (2×50 mL), methanol (50 mL), and ethyl acetate (50 mL) to give 2-amino-N-(2,6-dioxo-piperidin-3-yl)-6-methyl-benzamide as a white solid (9.89 g, 58% yield): 1H NMR (DMSO-d6) δ 1.98-2.17 (m, 5H, CH2, CH3) 2.51-2.56 (m, 1H, CHH), 2.74-2.86 (m, 1H, CHH), 4.68-4.77 (m, 1H, NCH), 5.18 (s, 2H, NH2), 6.38 (d, J=7 Hz, 1H, Ar), 6.50 (d, J=7 Hz, 1H, Ar), 6.94 (t; J=7 Hz, 1H, Ar), 8.59 (d, J=8 Hz, 1H, NH), 10.90 (s, 1H, NH); 13C NMR (DMSO-d6) δ 19.14, 23.75, 30.99, 49.10, 112.37, 17.21, 122.28, 128.96, 134.61, 145.22, 168.36, 172.84, 173.00; LCMS: MH=262.

reactant | 2-amino-6-methylbenzoic acid | 71.1 mmol, 10.75 g | NC1=C(C(=O)O)C(=CC=C1)C | C8H9NO2
reactant | CDI | 66.3 mmol, 10.75 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 3-amino-piperidine-2,6-dione hydrogen chloride | 65.3 mmol, 10.75 g | Cl.NC1C(NC(CC1)=O)=O
reactant | sodium hydrogen carbonate | 95 mmol, 8.0 g | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | 2-amino-N-(2,6-dioxo-piperidin-3-yl)-6-methyl-benzamide | 9.89 g, 58% yield | NC1=C(C(=O)NC2C(NC(CC2)=O)=O)C(=CC=C1)C | C13H15N3O3
